US07101876B2
Ethyl 3-({3-oxo-4-[3-(2-pyridinylamino)propyl]-3,4-dihydro-2H-1,4-benzoxazin-7-yl}sulfanyl)-3-phenylpropanoate, 22
To a solution of titanium (IV) chloride in tetrahydrofuran under nitrogen atmosphere, is added and equimolar amount of stannous chloride dihydrate, and the mixture is stirred 1 hour at room temperature. Then, a solution of ethyl 3-[(4-{3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino]propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)sulfanyl]-3-phenylpropanoate is added and the mixture heated 3 hours at 40° C. After evaporation of the solvent, ice and aqueous sodium bicarbonate are added, the mixture extracted with ethyl acetate, and the organic layers are combined and dried over sodium sulfate. The solvent is evaporated and ethyl 3-[(4-{3-[N-benzyloxycarbonyl-N-(2-pyridinyl)amino]-propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)sulfanyl]-3-phenylpropanoate is isolated by column chromatography. A solution of ethyl 3-[(4-{3-[N-benzyloxycarbonyl-N-(2-pyridinyl)amino]-propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)sulfanyl]-3-phenylpropanoate in acetic acid is treated with a solution of 30% hydrobromic acid in acetic acid at room temperature overnight. The solvent is evaporated under reduced pressure, and the residue is treated with a saturated sodium bicarbonate solution. The aqueous mixture is extracted with dichloromethane. The organic extracts are dried over sodium sulfate, evaporated to small volume and the product is purified by flash chromatography

reactant | ethyl 3-[(4-{3-[N-benzyloxycarbonyl-N-(2-pyridinyl)amino]-propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)sulfanyl]-3-phenylpropanoate | C(C1=CC=CC=C1)OC(=O)N(C1=NC=CC=C1)CCCN1C(COC2=C1C=CC(=C2)SC(CC(=O)OCC)C2=CC=CC=C2)=O | C35H35N3O6S
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 3-({3-oxo-4-[3-(2-pyridinylamino)propyl]-3,4-dihydro-2H-1,4-benzoxazin-7-yl}sulfanyl)-3-phenylpropanoate | O=C1COC2=C(N1CCCNC1=NC=CC=C1)C=CC(=C2)SC(CC(=O)OCC)C2=CC=CC=C2 | C27H29N3O4S
